US05412066
In a 250 mL flask equipped with a nitrogen inlet, overhead stirring assembly, and reflux condenser were placed fluorobenzene (117 g, 1.2 mol) and 4-bromobenzoyl chloride (39.8 g, 0.181 mol). The mixture was cooled to 0° C. and aluminum chloride (27 g, 0.20 mol) was added. The mixture was stirred for 15 minutes at 23° C., followed by heating to reflux for 4 h. The reaction was then cooled to 23° C. and stirred for 16 h. The resulting slurry was poured into 2 L of acidic (HCl) water. The organics were extracted with methylene chloride, and dried over magnesium sulfate. The slurry was filtered and the methylene chloride was removed under reduced pressure to yield an off white powder. Recrystallization from ethanol afforded 43.3 g (86%) of 4-bromo-4'-fluorobenzophenone as white crystals: m.p. 106°-107° C., (Lit. 107°-108° C.).

reactant | fluorobenzene | 1.2 mol, 117 g | FC1=CC=CC=C1 | C6H5F
reactant | 4-bromobenzoyl chloride | 0.181 mol, 39.8 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | aluminum chloride | 0.20 mol, 27 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 2 L | Cl | ClH
product | 4-bromo-4'-fluorobenzophenone | 43.3 g, 86% | BrC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8BrFO
